US05189054
Preparation of 3-[(p-chlorophenacyl)methylamino]-2-carboxy-4,6-dichloroindole
Mix 3-[(p-chlorophenacyl)methylamino]-2-carbethoxy-4,6-dichloroindole (1.3 g, 3.1 mmol), excess lithium hydroxide, tetrahydrofuran and water and stir overnight. Dilute with ethyl acetate and separate the layers. Dry the organic phase over magnesium sulfate, filter and concentrate in vacuo to yield the title compound; mp 279°-283° C.

reactant | 3-[(p-chlorophenacyl)methylamino]-2-carbethoxy-4,6-dichloroindole | 3.1 mmol, 1.3 g | ClC1=CC=C(C(CCNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)OCC)=O)C=C1 | C20H17Cl3N2O3
reactant | lithium hydroxide | [OH-].[Li+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(p-chlorophenacyl)methylamino]-2-carboxy-4,6-dichloroindole | ClC1=CC=C(C(CCNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)O)=O)C=C1 | C18H13Cl3N2O3
